US08975415B2
The mixture of 6′-bromodispiro[1,3-oxazole-4,4′-chromene-3′,3″-oxetan]-2-amine (650 mg, 2.00 mmol), [5-(prop-1-yn-1-yl)pyridin-3-yl]boronic acid (644 mg, 4.00 mmol), (1E,4E)-1,5-diphenylpenta-1,4-dien-3-one-palladium (3:2) (92 mg, 0.10 mmol), dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine (164 mg, 0.400 mmol), and K3PO4 (1.70 g, 8.00 mmol) in DMF (13 mL) was stirred for 16 hours at 110° C. under argon atmosphere. The precipitate formed was removed by filtration with celite and washed with CHCl3. The filtrate was concentrated in vacuo. The residue was purified by silica gel chromatography (CHCl3:MeOH=99:1-95:5) to give 6′-[5-(prop-1-yn-1-yl)pyridin-3-yl]dispiro[1,3-oxazole-4,4′-chromene-3′,3″-oxetan]-2-amine (310 mg).

reactant | 6′-bromodispiro[1,3-oxazole-4,4′-chromene-3′,3″-oxetan]-2-amine | 2.00 mmol, 650 mg | BrC=1C=C2C3(N=C(OC3)N)C3(COC3)COC2=CC1 | C13H13BrN2O3
reactant | [5-(prop-1-yn-1-yl)pyridin-3-yl]boronic acid | 4.00 mmol, 644 mg | C(#CC)C=1C=C(C=NC1)B(O)O | C8H8BNO2
reactant | dicyclohexyl(2′,6′-dimethoxybiphenyl-2-yl)phosphine | 0.400 mmol, 164 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
reactant | K3PO4 | 8.00 mmol, 1.70 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | DMF | 13 mL | CN(C)C=O | C3H7NO
catalyst | (1E,4E)-1,5-diphenylpenta-1,4-dien-3-one palladium | 0.10 mmol, 92 mg | C1(=CC=CC=C1)\C=C\C(\C=C\C1=CC=CC=C1)=O.[Pd]
product | 6′-[5-(prop-1-yn-1-yl)pyridin-3-yl]dispiro[1,3-oxazole-4,4′-chromene-3′,3″-oxetan]-2-amine | 310 mg | C(#CC)C=1C=C(C=NC1)C=1C=C2C3(N=C(OC3)N)C3(COC3)COC2=CC1 | C21H19N3O3
